US04812483
A solution of 2,2-dimethyl-3-(3-benzyl-4-fluorobenzyloxy)-propan-1-ol (from the previous Example) in dichloromethane (15 cm3) was added dropwise to a stirred suspension of pyridinium chlorochromate (5.13 g) in dichloromethane (40 cm3) whilst the reaction temperature was maintained within the range 0°-5° C. When the addition was complete the mixture was allowed to warm to the ambient temperature (ca 25° C.) over a period of two hours, and left to stir for 14 hours. Diethyl ether was then added to the reaction mixture, and the whole was flushed through a plug of silica gel using diethyl ether as eluent. Evaporation of the solvent under reduced pressure gave a green oil which was subjected to column chromatography through silica gel using petroleum ether (boiling range 40°-60° C.) containing diethyl ether (10% by volume) as eluent, to give 2,2-dimethyl-3-(3-benzyl-4-fluorobenzyloxy)propan-1-al (1.40 g).

reactant | 2,2-dimethyl-3-(3-benzyl-4-fluorobenzyloxy)-propan-1-ol | CC(CO)(COCC1=CC(=C(C=C1)F)CC1=CC=CC=C1)C | C19H23FO2
reactant | pyridinium chlorochromate | 5.13 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,2-dimethyl-3-(3-benzyl-4-fluorobenzyloxy)propan-1-al | 1.40 g | CC(C=O)(COCC1=CC(=C(C=C1)F)CC1=CC=CC=C1)C | C19H21FO2
